US08440689B2
A. Ethyl 2-chloro-4-((1,3-dioxoisoindolin-2-yl)methyl)-6-(m-tolylamino)pyrimidine-5-carboxylate
To a solution of ethyl 2,4-dichloro-6-((1,3-dioxoisoindolin-2-yl)methyl)pyrimidine-5-carboxylate (45.3 mg, 0.119 mmol) in MeCN (1 mL) was added m-toluidine (0.020 mL, 0.187 mmol) and N,N-diisopropylethylamine (0.037 mL, 0.212 mmol). The mixture was stirred at RT for 12 h. Saturated aq NaHCO3 was added to the mixture, which was subsequently extracted with EtOAc. The organic layers were washed again with saturated aq NaHCO3, water, and brine, were dried over anhydrous Na2SO4, and then filtered through SiO2. The filtrate was concentrated under reduced pressure and the residue was washed with IPE to give the title compound as a pale brown solid (37.1 mg, 69%). 1H NMR (400 MHz, CDCl3) δ ppm 1.50 (t, J=7.2 Hz, 3H), 2.36 (s, 3H), 4.52 (q, J=7.2 Hz, 2H), 5.20 (s, 2H), 6.97-6.98 (m, 1H), 7.23-7.27 (m, 1H), 7.33 (br s, 1H), 7.45-7.47 (m, 1H), 7.73-7.78 (m, 2H), 7.89-7.94 (m, 2H), 10.67 (br s, 1H).

reactant | ethyl 2,4-dichloro-6-((1,3-dioxoisoindolin-2-yl)methyl)pyrimidine-5-carboxylate | 0.119 mmol, 45.3 mg | ClC1=NC(=C(C(=N1)Cl)C(=O)OCC)CN1C(C2=CC=CC=C2C1=O)=O | C16H11Cl2N3O4
reactant | m-toluidine | 0.187 mmol, 0.020 mL | NC1=CC(=CC=C1)C | C7H9N
reactant | N,N-diisopropylethylamine | 0.212 mmol, 0.037 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | MeCN | 1 mL | CC#N | C2H3N
product | Ethyl 2-chloro-4-((1,3-dioxoisoindolin-2-yl)methyl)-6-(m-tolylamino)pyrimidine-5-carboxylate | 37.1 mg, 69% | ClC1=NC(=C(C(=N1)CN1C(C2=CC=CC=C2C1=O)=O)C(=O)OCC)NC=1C=C(C=CC1)C | C23H19ClN4O4
